US06613781B2
Preparation of 5-Fluoro-3-(3-pyridinylmethyl)-1H-indole
A suspension of (5-fluoro-1H-indole-3-yl)-pyridin-3-yl-methanol (5.00 g, 21 mmol) in methylene chloride is treated with triethylsilane (3.70 ml, 23 mmol) and trifluoroacetic acid (TFA), stirred at room temperature overnight, and concentrated in vacuo. The resultant residue is basified with 2.5 N NaOH and saturated NaHCO3, and extracted with methylene chloride. The extracts are combined, dried over Na2SO4 and concentrated in vacuo. This residue is purified by column chromatography (50%EtOAc/CH2Cl2) to give the title compound as a pale orange solid 3.24 g (68%) mp 109-112° C., identified by NMR and mass spectral analyses.

reactant | (5-fluoro-1H-indole-3-yl)-pyridin-3-yl-methanol | 21 mmol, 5.00 g | FC=1C=C2C(=CNC2=CC1)C(O)C=1C=NC=CC1 | C14H11FN2O
reactant | triethylsilane | 23 mmol, 3.70 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-Fluoro-3-(3-pyridinylmethyl)-1H-indole | 3.24 g, 68% | FC=1C=C2C(=CNC2=CC1)CC=1C=NC=CC1 | C14H11FN2
